US06624309B1
A. 4-[[[(2,2-Dimethylcyclopentyl)methyl]amino]-carbonyl]benzoic Acid Methyl Ester
The title compound was prepared from monomethylterephthalate and 2,2-dimethylcyclopentylmethyl amine (title B compound of Example 1) in a manner as described for the title A compound of Example 24.

reactant | monomethylterephthalate | COC(C1=CC=C(C(=O)[O-])C=C1)=O
reactant | 2,2-dimethylcyclopentylmethyl amine | CC1(C(CCC1)CN)C | C8H17N
product | 4-[[[(2,2-Dimethylcyclopentyl)methyl]amino]-carbonyl]benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)C(=O)NCC1C(CCC1)(C)C)=O | C17H23NO3
